### PR TITLE
Implement entities database and auditor

### PR DESCRIPTION
**Pull request by atomb**
Creates a database of program entities (modules, types, definitions, etc.) and updates the translator to handle an entire program instead of a single method.

On top of this, implements an auditor for Dafny, focused initially on producing a report summarizing all assumptions in a program (addressing dafny-lang/dafny#2236).

### CODE REVIEW

File: src/Tools/Auditor/Auditor.dfy [hunk 1]
```diff
@@ -0,0 +1,105 @@
...
+import opened AST.Syntax.Exprs
+import E = AST.Translator.Entity
+import opened AuditReport
+import opened Interop
+import opened Utils.Lib.Datatypes
+import opened Utils.Lib.Seq
+
+//// AST traversals ////
+
+function {:opaque} Any<T>(P: T ~> bool, ts: seq<T>) : (b: bool)
```
Comment (atomb) [inline src/Tools/Auditor/Auditor.dfy:24]: This should go in the standard library

File: src/Utils/Lib.Sort.dfy [hunk 2]
```diff
@@ -0,0 +1,450 @@
+include "Library.dfy"
```
Comment (atomb) [inline src/Utils/Lib.Sort.dfy:1]: We should eventually move as much as possible of this file and `Library.dfy` into https://github.com/dafny-lang/libraries.

File: src/AST/Entities.dfy [hunk 3]
```diff
@@ -0,0 +1,644 @@
...
+{
+  import opened Names
+  import opened Syntax.Exprs
+  import opened Syntax.Types
+  import ST = Syntax.Types
+  import opened Utils.Lib.Datatypes
+  import Utils.Lib.SetSort
+  import OS = Utils.Lib.Outcome.OfSeq
+
+  // DISCUSS: Should this module be parameterized by `TExpr`?
```
Comment (atomb) [inline src/AST/Entities.dfy:21]: I could see value in doing so, but I'd be inclined to only change it if we have a concrete use case, along with the change to implement that use case.

File: src/AST/Translator.Common.dfy [hunk 4]
```diff
@@ -0,0 +1,37 @@
...
+include "../Utils/Library.dfy"
+
+module Bootstrap.AST.Translator.Common {
+  import opened Utils.Lib.Datatypes
+  import opened Interop.CSharpDafnyInterop
+  import C = Interop.CSharpDafnyASTModel
+
+  datatype TranslationError =
+    | Invalid(msg: string)
+    | GhostExpr(expr: C.Expression)
```
Comment (atomb) [inline src/AST/Translator.Common.dfy:12]: We could remove this and use `Unsupported` instead.

File: src/AST/Translator.Common.dfy [hunk 5]
```diff
@@ -0,0 +1,37 @@
...
+    | UnsupportedType(ty: C.Type)
+    | UnsupportedExpr(expr: C.Expression)
+    | UnsupportedStmt(stmt: C.Statement)
```
Comment (atomb) [inline src/AST/Translator.Common.dfy:15]: We could get rid of this now that it's no longer used. And we could _almost_ get rid of `UnsupportedExpr`, too.

File: src/AST/Translator.Entity.dfy [hunk 6]
```diff
@@ -0,0 +1,298 @@
...
+    reads *
+  {
+    if md is C.Field then
+      TranslateField(md)
+    else if md is C.Function then
+      TranslateFunction(md)
+    else if md is C.Method then
+      TranslateMethod(md)
+    else
+      Failure(Invalid("Unsupported member declaration type: " + TypeConv.AsString(md.FullName)))
```
Comment (atomb) [inline src/AST/Translator.Entity.dfy:114]: We should add an unsupported entity constructor and return `Success` with it here.

File: src/AST/Translator.Entity.dfy [hunk 7]
```diff
@@ -0,0 +1,298 @@
...
+    Success([E.Entity.Type(ei, E.Type.TypeAlias(E.TypeAlias.TypeAlias(ty)))])
+  }
+
+  function TranslateSubsetTypeDecl(st: C.SubsetTypeDecl): (e: TranslationResult<seq<E.Entity>>)
+    reads *
+  {
+    // TODO: handle nonnull types
+    var x := TypeConv.AsString(st.Var.Name);
+    var ty :- Expr.TranslateType(st.Rhs);
+    var constraint :-Expr.TranslateExpression(st.Constraint);
```
Comment (atomb) [inline src/AST/Translator.Entity.dfy:131]:
```suggestion
    var constraint :- Expr.TranslateExpression(st.Constraint);
```

File: src/AST/Translator.Entity.dfy [hunk 8]
```diff
@@ -0,0 +1,298 @@
...
+    var wit :-Expr.TranslateOptionalExpression(st.Witness);
```
Comment (atomb) [inline src/AST/Translator.Entity.dfy:132]:
```suggestion
    var wit :- Expr.TranslateOptionalExpression(st.Witness);
```

File: src/AST/Translator.Entity.dfy [hunk 9]
```diff
@@ -0,0 +1,298 @@
...
+    Success(E.Type.AbstractType(E.AbstractType.AbstractType()))
+  }
+
+  function TranslateNewtypeDecl(nt: C.NewtypeDecl): (e: TranslationResult<E.Type>)
+    reads *
+  {
+    var x := TypeConv.AsString(nt.Var.Name);
+    var ty :- Expr.TranslateType(nt.BaseType);
+    var constraint :- Expr.TranslateOptionalExpression(nt.Constraint);
+    var wit :-Expr.TranslateOptionalExpression(nt.Witness);
```
Comment (atomb) [inline src/AST/Translator.Entity.dfy:157]:
```suggestion
    var wit :- Expr.TranslateOptionalExpression(nt.Witness);
```

File: src/AST/Translator.Entity.dfy [hunk 10]
```diff
@@ -0,0 +1,298 @@
...
+               else if tl is C.NewtypeDecl then
+                 TranslateNewtypeDecl(tl)
+               else if tl is C.DatatypeDecl then
+                 TranslateDatatypeDecl(tl)
+               else if tl is C.TraitDecl then
+                 TranslateTraitDecl(tl)
+               else if tl is C.ClassDecl then
+                 TranslateClassDecl(tl)
+               else
+                 Failure(Invalid("Unsupported top level declaration type for " + TypeConv.AsString(tl.FullName)));
```
Comment (atomb) [inline src/AST/Translator.Entity.dfy:220]: Also return `Success(Unsupported(...))` here.

File: src/AST/Translator.Entity.dfy [hunk 11]
```diff
@@ -0,0 +1,298 @@
...
+    else if tl is C.TypeSynonymDecl then
+      TranslateTypeSynonymDecl(tl)
+    else if tl is C.TypeParameter then
+      TranslateTypeParameter(tl)
+    else if tl is C.ModuleDecl then
+      var md := tl as C.ModuleDecl;
+      assume ASTHeight(md.Signature) < ASTHeight(tl);
+      TranslateModule(md.Signature)
+    else
+      Failure(Invalid("Unsupported top level declaration type for " + TypeConv.AsString(tl.FullName)))
```
Comment (atomb) [inline src/AST/Translator.Entity.dfy:242]: Also return `Success(Unsupported(...))` here.

File: src/AST/Translator.Entity.dfy [hunk 12]
```diff
@@ -0,0 +1,298 @@
...
+    var exports := sig.ExportSets;
+    var topLevels := DictUtils.DictionaryToSeq(sig.TopLevels);
+    var topDecls :- Seq.MapResult(topLevels,
+      (tl: (System.String, C.TopLevelDecl)) reads * =>
+        assume ASTHeight(tl.1) < ASTHeight(sig);
+        TranslateTopLevelDecl(tl.1));
+    var topDecls' := Seq.Flatten(topDecls);
+    var topNames := Seq.Map((d: E.Entity) => d.ei.name, topDecls');
+    //:- Need(forall nm <- topNames :: nm.ChildOf(name), Invalid("Malformed name in " + name.ToString()));
+    assume forall nm <- topNames :: nm.ChildOf(name);
```
Comment (atomb) [inline src/AST/Translator.Entity.dfy:263]: Remove this and use `Need` again.

File: src/AST/Translator.Entity.dfy [hunk 13]
```diff
@@ -0,0 +1,298 @@
...
+                            var methodName :- TranslateName(p.MainMethod.FullName);
+                            Success(Some(methodName));
+    var defaultModuleName :- TranslateName(p.DefaultModule.FullName);
+    var reg := E.Registry_.Registry(regMap);
+    match reg.Validate() {
+      case Pass =>
+        var prog := E.Program(reg, defaultModule := defaultModuleName, mainMethod := mainMethodName);
+        if prog.Valid?() then Success(prog) else Failure(Invalid("Generated invalid program"))
+      case Fail(errs) =>
+        var err := Seq.Flatten(Seq.Map((e: E.ValidationError) => e.ToString(), errs));
```
Comment (atomb) [inline src/AST/Translator.Entity.dfy:294]: Make this message prettier.

File: src/AST/Translator.Entity.dfy [hunk 14]
```diff
@@ -0,0 +1,298 @@
...
+                            Success(None)
+                          else
+                            var methodName :- TranslateName(p.MainMethod.FullName);
+                            Success(Some(methodName));
+    var defaultModuleName :- TranslateName(p.DefaultModule.FullName);
+    var reg := E.Registry_.Registry(regMap);
+    match reg.Validate() {
+      case Pass =>
+        var prog := E.Program(reg, defaultModule := defaultModuleName, mainMethod := mainMethodName);
+        if prog.Valid?() then Success(prog) else Failure(Invalid("Generated invalid program"))
```
Comment (atomb) [inline src/AST/Translator.Entity.dfy:292]: Is the `else` branch reachable here?

File: src/AST/Translator.Expressions.dfy [hunk 15]
```diff
@@ -507,7 +487,29 @@ module Bootstrap.AST.Translator {
...
-    else Failure(UnsupportedExpr(c))
+    else TranslateUnsupportedExpression(c)
+  }
+
+  function method TranslateUnsupportedExpression(ue: C.Expression)
+    : (e: TranslationResult<Expr>)
+    reads *
+    decreases ASTHeight(ue), 0
+  {
+    var children := []; // TODO: ListUtils.ToSeq(ue.SubExpressions);
```
Comment (atomb) [inline src/AST/Translator.Expressions.dfy:498]: Implement `ListUtils.ToSeq` but for `IEnumerable`.

File: src/AST/Translator.Expressions.dfy [hunk 16]
```diff
@@ -556,24 +574,35 @@ module Bootstrap.AST.Translator {
...
+    : (e: TranslationResult<Expr>)
     reads *
+    decreases ASTHeight(us), 0
   {
-    // var compileName := m.CompileName;
-    // FIXME “Main”
-    var stmts :- Seq.MapResult(ListUtils.ToSeq(m.Body.Body), TranslateStatement);
-    Success(D.Method("Main", DE.Block(stmts)))
+    var subexprs := []; // TODO: ListUtils.ToSeq(ue.SubExpressions);
+    var substmts := []; // TODO: ListUtils.ToSeq(ue.SubStatements);
```
Comment (atomb) [inline src/AST/Translator.Expressions.dfy:589]: Implement `ListUtils.ToSeq` but for `IEnumerable`.

File: src/Backends/CSharp/Compiler.dfy [hunk 17]
```diff
@@ -236,28 +243,36 @@ module Compiler {
...
+  function method CompileProgram(p: E.Program) : StrTree
     requires Deep.All_Program(p, EliminateNegatedBinops.NotANegatedBinopExpr)
     requires Deep.All_Program(p, Exprs.WellFormed)
   {
-    match p {
-      case Program(mainMethod) => CompileMethod(mainMethod)
-    }
+    var names := p.registry.SortedNames();
+    var entities := Seq.Map(p.registry.Get, names);
+    // TODO: prove
```
Comment (atomb) [inline src/Backends/CSharp/Compiler.dfy:267]: Either prove this entirely or just for the `Main` method.

File: src/Backends/CSharp/Compiler.dfy [hunk 18]
```diff
@@ -300,11 +315,14 @@ module Compiler {
           // but it seems cleaner to state that we need ``NotANegatedBinopExpr`` in the
           // preconditions, as it is more precise and ``Tr_Expr_Post`` might be expanded
           // in the future.
+          // TODO: need to redo this for all the entities in the program
```
Comment (atomb) [inline src/Backends/CSharp/Compiler.dfy:318]: Or just for the `Main` method.

File: src/Transforms/BottomUp.dfy [hunk 19]
```diff
@@ -306,17 +302,7 @@ module Bootstrap.Transforms.BottomUp {
...
-    requires TransformerDeepPreservesRel(tr.f, rel)
-    ensures rel(m.methodBody, Map_Method(m, tr).methodBody)
-    // ``Map_Method`` preserves relations
-  {
-    reveal Map_Method();
-    reveal Shallow.Map_Method();
-    Map_Expr_PreservesRel(m.methodBody, tr, rel);
-  }
-
+/*
```
Comment (atomb) [inline src/Transforms/BottomUp.dfy:305]: Uncomment this and prove it so we can use it to prove transformations correct.

File: src/Transforms/Shallow.dfy [hunk 20]
```diff
@@ -1,29 +1,74 @@
...
+      // TODO: add fields once they contain expressions
+      case _ => e
+    }
+  }
+
+  function method Map_EntityTransformer(tr: ExprTransformer): (Entity --> Entity) {
+    e requires Shallow.All_Entity(e, tr.f.requires) => Map_Entity(e, tr)
+  }
+
+  // TODO: prove!
```
Comment (atomb) [inline src/Transforms/Shallow.dfy:59]: Prove this!

File: src/Passes/Pass.dfy [hunk 21]
```diff
@@ -20,5 +22,6 @@ module Bootstrap.Passes.Pass {
   // the input and the output.
     requires Tr_Pre(p)
     ensures Tr_Post(p)
-    ensures EqInterp(p.mainMethod.methodBody, p'.mainMethod.methodBody)
+    // TODO!
```
Comment (atomb) [inline src/Passes/Pass.dfy:25]: Prove this!

File: src/Passes/SimplifyEmptyBlocks.dfy [hunk 22]
```diff
@@ -668,33 +669,16 @@ module Simplify {
...
     ensures Tr_Post(p')
-    ensures Tr_Expr_Rel(p.mainMethod.methodBody, p'.mainMethod.methodBody)
+    //ensures Tr_Expr_Rel(p.mainMethod.methodBody, p'.mainMethod.methodBody)
     // Apply the transformation to a program.
   {
     Deep.All_Expr_True_Forall(Tr_Expr.f.requires);
     assert Deep.All_Program(p, Tr_Expr.f.requires);
     EqInterp_Lift(Tr_Expr.f);
-    Map_Program_PreservesRel(p, Tr_Expr, Tr_Expr_Rel);
+    //Map_Program_PreservesRel(p, Tr_Expr, Tr_Expr_Rel);
```
Comment (atomb) [inline src/Passes/SimplifyEmptyBlocks.dfy:681]: Hopefully this will go through as-is one `Map_Program_PreservesRel` goes through.

File: src/Passes/EliminateNegatedBinops.dfy [hunk 23]
```diff
@@ -250,34 +251,16 @@ module Bootstrap.Passes.EliminateNegatedBinops {
...
     ensures Tr_Post(p')
-    ensures Tr_Expr_Rel(p.mainMethod.methodBody, p'.mainMethod.methodBody)
+    //ensures Tr_Expr_Rel(p.mainMethod.methodBody, p'.mainMethod.methodBody)
     // Apply the transformation to a program.
   {
     Deep.All_Expr_True_Forall(Tr_Expr.f.requires);
     assert Deep.All_Program(p, Tr_Expr.f.requires);
     TrPreservesRel();
-    Map_Program_PreservesRel(p, Tr_Expr, Tr_Expr_Rel);
+    //Map_Program_PreservesRel(p, Tr_Expr, Tr_Expr_Rel);
```
Comment (atomb) [inline src/Passes/EliminateNegatedBinops.dfy:263]: Hopefully this will go through as-is (with the `ensures` clause back in place) once `Map_Program_PreservesRel` exists again.

**Comment by keyboardDrummer** [comment]
Is there an issue that this PR relates to? Maybe we could add one in https://github.com/dafny-lang/dafny ?

**Comment by atomb** [comment]
> Is there an issue that this PR relates to? Maybe we could add one in https://github.com/dafny-lang/dafny ?

I just edited the description to be non-empty and include a reference to the relevant issue.

File: src/Tools/Auditor/Auditor.dfy [hunk 24]
```diff
@@ -0,0 +1,105 @@
...
+  TagIf(e.Type? && e.t.SubsetType?, IsSubsetType) +
+  TagIf(e.Type? && e.t.NewType? && e.t.nt.pred.Some?, IsSubsetType) +
+  TagIf(e.Type? && e.t.SubsetType? && e.t.st.witnessExpr.None?, HasNoWitness) +
+  TagIf(e.Type? && e.t.NewType? && e.t.nt.witnessExpr.None?, HasNoWitness) +
+  TagIf(e.Definition? && e.d.Callable? && e.d.ci.body.None?, HasNoBody) +
+  TagIf(e.Definition? && e.d.Callable? && e.d.ci.body.Some? &&
+        ContainsAssumeStatement(e.d.ci.body.value), HasAssumeInBody) +
+  TagIf(e.Definition? && e.d.Callable? && |e.d.ci.ens| > 0, HasEnsuresClause) +
+  // TagIf(e.Definition? && e.d.Callable? && |e.d.ci.req| > 0, HasRequiresClause) +
+  TagIf(e.Definition? && e.d.Callable?, IsCallable)
```
Comment (cpitclaudel) [inline src/Tools/Auditor/Auditor.dfy:68]: I might have used a record with one boolean field per tag rather than a set, but this is good too

File: src/Tools/Auditor/Auditor.dfy [hunk 25]
```diff
@@ -0,0 +1,105 @@
...
+
+  method Audit(p: CSharpDafnyASTModel.Program) returns (r: string)
+  {
+    var res := E.TranslateProgram(p);
+    match res {
+      case Success(p') =>
+        var rpt := GenerateAuditReport(p'.registry);
+        return RenderAuditReportMarkdown(rpt);
+      case Failure(err) =>
+        return err.ToString();
```
Comment (cpitclaudel) [inline src/Tools/Auditor/Auditor.dfy:101]: Let's improve the message here, since there's a nonzero chance that on some reasonable codebases we'll run into issues

File: src/Tools/Auditor/Auditor.dfy [hunk 26]
```diff
@@ -0,0 +1,105 @@
...
+include "../../AST/Syntax.dfy"
+include "../../AST/Translator.Entity.dfy"
+include "../../Interop/CSharpDafnyASTModel.dfy"
+include "../../Interop/CSharpDafnyInterop.dfy"
+include "../../Utils/Library.dfy"
+include "Report.dfy"
+
+module {:extern "Bootstrap.Tools.Auditor"} {:options "-functionSyntax:4"} Bootstrap.Tools.Auditor {
+
+import opened AST.Entities
```
Comment (cpitclaudel) [inline src/Tools/Auditor/Auditor.dfy:12]: Why is the body of this module not indented, btw?

File: src/Tools/Auditor/DafnyAuditor.csproj [hunk 27]
```diff
@@ -0,0 +1,19 @@
...
+    <ImplicitUsings>enable</ImplicitUsings>
+    <Nullable>enable</Nullable>
+  </PropertyGroup>
+
+  <PropertyGroup>
+    <DAFNY_ROOT Condition="'$(DAFNY_ROOT)' == ''">..\..\..\..\</DAFNY_ROOT>
+  </PropertyGroup>
+
+  <ItemGroup>
+    <ProjectReference Include="$(DAFNY_ROOT)\Source\Dafny\DafnyPipeline.csproj" />
```
Comment (cpitclaudel) [inline src/Tools/Auditor/DafnyAuditor.csproj:14]: Once this is compilable with mainline Dafny, could we make it depend on the `DafnyPipeline` library?

File: src/Tools/Auditor/Report.dfy [hunk 28]
```diff
@@ -0,0 +1,125 @@
+include "../../Utils/Library.dfy"
+
+module AuditReport {
+  import opened Utils.Lib.Seq
+
+  //// Data types for report ////
```
Comment (cpitclaudel) [inline src/Tools/Auditor/Report.dfy:6]:
```suggestion
/// ## Data types for report
```

File: src/Tools/Auditor/Report.dfy [hunk 29]
```diff
@@ -0,0 +1,125 @@
...
+
+  datatype Tag =
+    | IsGhost
+    | IsSubsetType
+    | IsCallable
+    | HasNoBody // TODO: should all tags be positive?
```
Comment (cpitclaudel) [inline src/Tools/Auditor/Report.dfy:12]: I think this is fine, but otherwise
```suggestion
    | Unimplemented
```
or
```suggestion
    | MissingBody
```
?

File: src/Tools/Auditor/Report.dfy [hunk 30]
```diff
@@ -0,0 +1,125 @@
...
+    | HasAxiomAttribute
+    | HasExternAttribute
+    | HasVerifyFalseAttribute
+    | HasAssumeInBody // Maybe: (expr: Expression) TODO: :axiom?
```
Comment (cpitclaudel) [inline src/Tools/Auditor/Report.dfy:16]: Yes, it would be nice to capture the assumption — even better if we could later on print it.

File: src/Tools/Auditor/Report.dfy [hunk 31]
```diff
@@ -0,0 +1,125 @@
...
+    | HasRequiresClause
+    | HasEnsuresClause
+    | HasNoWitness // TODO: should all tags be positive?
+    | HasJustification
+    // TODO: decreases *?
```
Comment (cpitclaudel) [inline src/Tools/Auditor/Report.dfy:21]: I think that would be nice to have as well.

File: src/Tools/Auditor/Report.dfy [hunk 32]
```diff
@@ -0,0 +1,125 @@
...
+
+  datatype Assumption =
+    Assumption(name: string, tags: set<Tag>)
+
+  datatype Report =
+    Report(assumptions: seq<Assumption>)
+
+  const EmptyReport := Report([])
+
+  //// Tag categorization ////
```
Comment (cpitclaudel) [inline src/Tools/Auditor/Report.dfy:49]:
```suggestion
  /// # Tag categorization
```

File: src/Tools/Auditor/Auditor.dfy [hunk 33]
```diff
@@ -0,0 +1,105 @@
...
+function TagIf(cond: bool, t: Tag): set<Tag> {
+  if cond then {t} else {}
+}
+
+function GetTags(e: Entity): set<Tag> {
+  TagIf(exists a | a in e.ei.attrs :: a.name == Extern, HasExternAttribute) +
+  TagIf(exists a | a in e.ei.attrs :: a.name == Axiom, HasAxiomAttribute) +
+  TagIf(e.Type? && e.t.SubsetType?, IsSubsetType) +
+  TagIf(e.Type? && e.t.NewType? && e.t.nt.pred.Some?, IsSubsetType) +
+  TagIf(e.Type? && e.t.SubsetType? && e.t.st.witnessExpr.None?, HasNoWitness) +
```
Comment (cpitclaudel) [inline src/Tools/Auditor/Auditor.dfy:61]: I would remove this; there's no assumption being made when you write `witness *` (and in many cases, you actually cannot provide a witness, e.g. `newtype C = c: C? | c != null`)

File: src/Tools/Auditor/EntryPoint.cs [hunk 34]
```diff
@@ -0,0 +1,17 @@
...
+public class Auditor : Plugins.Rewriter {
+
+  private readonly DafnyAuditor auditor = new();
+
+  public Auditor(ErrorReporter reporter) : base(reporter) { }
+
+  public override void PostResolve(Program program) {
+    var text = auditor.Audit(program);
+    // TODO: write to the console or file depending on options
+    Console.WriteLine(text);
```
Comment (cpitclaudel) [inline src/Tools/Auditor/EntryPoint.cs:15]: Let's log a request on the tracker to have command line plugins?
Also, it would be nice to be able to exit with an error if certain problems are present.  Perhaps the user could specify tags to error about?

File: src/Tools/Auditor/Report.dfy [hunk 35]
```diff
@@ -0,0 +1,125 @@
...
+
+  predicate method IsAssumption(ts: set<Tag>) {
+    || (IsSubsetType in ts && HasNoWitness in ts)
```
Comment (cpitclaudel) [inline src/Tools/Auditor/Report.dfy:52]: This part shouldn't be reported as an assumption

File: src/Tools/Auditor/Report.dfy [hunk 36]
```diff
@@ -0,0 +1,125 @@
...
+    || HasAxiomAttribute in ts
+    || (&& IsCallable in ts
+        && (|| (HasEnsuresClause in ts && (HasNoBody in ts || HasExternAttribute in ts))
```
Comment (cpitclaudel) [inline src/Tools/Auditor/Report.dfy:55]: An extern doesn't need an ensures clause to be unsound; e.g. an extern could return a value of an empty type.

File: src/Tools/Auditor/Report.dfy [hunk 37]
```diff
@@ -0,0 +1,125 @@
...
+            || HasAssumeInBody in ts))
+  }
+
+  predicate method IsExplicitAssumption(ts: set<Tag>) {
+    HasAxiomAttribute in ts || HasAssumeInBody in ts
+  }
+
+  //// Report rendering ////
```
Comment (cpitclaudel) [inline src/Tools/Auditor/Report.dfy:63]:
```suggestion
/// ## Report rendering
```

File: src/Tools/Auditor/Report.dfy [hunk 38]
```diff
@@ -0,0 +1,125 @@
...
+
+  function method MaybeElt<T>(b: bool, elt: T): seq<T> {
+     if b then [elt] else []
+  }
+
+  // TODO: improve these descriptions
+  function method AssumptionDescription(ts: set<Tag>): seq<(string, string)> {
+    MaybeElt(IsCallable in ts && HasNoBody in ts && IsGhost in ts,
+      ("Function or lemma has no body.",
+       "Provide a body.")) +
```
Comment (cpitclaudel) [inline src/Tools/Auditor/Report.dfy:77]: Or add `:axiom`?

File: src/Tools/Auditor/Report.dfy [hunk 39]
```diff
@@ -0,0 +1,125 @@
...
+      ];
+    "| " + Flatten(Seq.Interleave(" | ", cells)) + " |"
+  }
+
+  function method RenderAuditReportMarkdown(r: Report): string {
+    var header :=
+      "|Name|Compiled|Explicit Assumption|Extern|Issue|Mitigation|\n" +
+      "|----|--------|-------------------|------|-----|----------|\n";
+    FoldL((s, a) => s + RenderAssumptionMarkdown(a) + "\n", header, r.assumptions)
+  }
```
Comment (cpitclaudel) [inline src/Tools/Auditor/Report.dfy:124]: How readable will this be on the command line?  I would have grouped the report by "kind" of issue, followed by a small description, and then reported each "violation" like an error message, with a position and a name:

```
# High severity

[unimplemented] 5 missing implementations
  When a lemma, function, or method does not have a body, Dafny will assume its pre- and postconditions without proving them.  To resolve this issue, either provide a body or annotate the function as `{:extern}` (for executable code) or `{:axiom}` (for ghost code).

  foo.dfy:17: FooFunction
  bar.dfy:422: BarMethod

[naked-assume] 3 assumed properties
  `assume`s are not verified statically nor checked at run time, making them unsafe.  To resolve this issue, use `aasert` to check properties statically, `expect` to check them at run time (in methods only), or mark necessary assumptions that have been carefully reviewed with `{:axiom}`

  blah.dfy:17: assume foo
  blah.dfy:19: assume bar
  blah.dfy:22: assume baz

# Low severity

[axiomatized-assume] 2 assumed properties marked with `{:axiom}`
  `assume` is unsafe, but the following assumes were marked `{:axiom}` and are thus reported at low severity:

  …
```

File: src/Transforms/BottomUp.dfy [hunk 40]
```diff
@@ -155,6 +156,8 @@ module Bootstrap.Transforms.BottomUp {
         var e' := Expr.If(Map_Expr(cond, tr), Map_Expr(thn, tr), Map_Expr(els, tr));
         assert Exprs.ConstructorsMatch(e, e');
         e'
+      // TODO: for now we don't map over subexpressions of unsupported nodes
+      case Unsupported(_, _) => e
```
Comment (cpitclaudel) [inline src/Transforms/BottomUp.dfy:160]: But why?

File: src/Transforms/Shallow.dfy [hunk 41]
```diff
@@ -1,29 +1,74 @@
...
+    requires o.Some? ==> f.requires(o.value)
   {
-    match m {
-      case Method(CompileName, methodBody) =>
-        Method (CompileName, tr.f(methodBody))
+    match o {
+      case None => None
+      case Some(x) => Some(f(x))
     }
   }
```
Comment (cpitclaudel) [inline src/Transforms/Shallow.dfy:22]: Can we move this to `Lib.Option`?

File: src/Transforms/Shallow.dfy [hunk 42]
```diff
@@ -1,29 +1,74 @@
...
+  function method Map_EntityTransformer(tr: ExprTransformer): (Entity --> Entity) {
+    e requires Shallow.All_Entity(e, tr.f.requires) => Map_Entity(e, tr)
+  }
+
+  // TODO: prove!
+  lemma Map_EntityIsEntityTransformer(tr: ExprTransformer)
+    ensures EntityTransformer?(Map_EntityTransformer(tr))
+    {
+      assume EntityTransformer?(Map_EntityTransformer(tr));
+    }
```
Comment (cpitclaudel) [inline src/Transforms/Shallow.dfy:64]:
```suggestion
  {
    assume EntityTransformer?(Map_EntityTransformer(tr));
  }
```

File: src/Utils/Library.dfy [hunk 43]
```diff
@@ -287,6 +292,26 @@ module Utils.Lib.Seq {
             case Some(y) => [y]
             case None => []) + MapFilter(s[1..], f)
   }
+
+  function method Break<T>(f: T -> bool, s: seq<T>): (result: (seq<T>, seq<T>))
+    ensures |result.1| <= |s|
+    ensures forall c | c in result.0 :: !f(c)
+  {
```
Comment (cpitclaudel) [inline src/Utils/Library.dfy:299]: Can we have a docstring on this function?

Comment (cpitclaudel) [inline src/Utils/Library.dfy:299]: Can we specify that the next element (if any) satisfies `s`?

File: src/Utils/Library.dfy [hunk 44]
```diff
@@ -287,6 +292,26 @@ module Utils.Lib.Seq {
             case Some(y) => [y]
             case None => []) + MapFilter(s[1..], f)
   }
+
+  function method Break<T>(f: T -> bool, s: seq<T>): (result: (seq<T>, seq<T>))
+    ensures |result.1| <= |s|
```
Comment (cpitclaudel) [inline src/Utils/Library.dfy:297]: Isn't it stronger? `result.1 + result.2 == s`?

File: src/Utils/Library.dfy [hunk 45]
```diff
@@ -287,6 +292,26 @@ module Utils.Lib.Seq {
...
+    if |s| == 0 then ([], [])
+    else if f(s[0]) then ([], s)
+    else
+      var (h, t) := Break(f, s[1..]);
+      ([s[0]] + h, t)
+  }
+
+  function method Split<T(==)>(x: T, s: seq<T>): (result: seq<seq<T>>)
+    decreases |s|
+    ensures forall s | s in result :: x !in s
```
Comment (cpitclaudel) [inline src/Utils/Library.dfy:309]: Can we prove that concatenating all the resulting sequences returns the original sequence, filtered?

File: src/AST/Translator.Entity.dfy [hunk 46]
```diff
@@ -0,0 +1,298 @@
...
+  function TranslateTopLevelEntityInfoMembers(tl: C.TopLevelDeclWithMembers): (e: TranslationResult<(seq<E.Entity>, E.EntityInfo)>)
+    reads *
+  {
+    var name :- TranslateName(tl.FullName);
+    var attrs :- TranslateAttributes(tl.Attributes);
+    var loc := TranslateLocation(tl.tok);
+    var memberDecls := ListUtils.ToSeq(tl.Members);
+    var members :- Seq.MapResult(memberDecls, d reads * => TranslateMemberDecl(d));
+    var memberNames := Seq.Map((m: E.Entity) => m.ei.name, members);
+    :- Need(forall nm <- memberNames :: nm.ChildOf(name), Invalid("Malformed member name in " + name.ToString()));
```
Comment (cpitclaudel) [inline src/AST/Translator.Entity.dfy:201]: Would it work to run the validator after the fact instead of having `Need` here?

**Review by cpitclaudel — CHANGES_REQUESTED** [review]
Neat, just read through the whole thing, and it's looking pretty good!

File: GNUmakefile [hunk 47]
```diff
@@ -103,10 +105,20 @@ $(csharp)/Compiler.cs: $(csharp)/Compiler.dfy $(dfy_models) $(dfy_interop) $(Daf
 	sed -i.bak -e 's/__AUTOGEN__//g' "$@"
 	rm "$@.bak" # https://stackoverflow.com/questions/4247068/
 
+$(auditor)/Auditor.cs: $(auditor)/Auditor.dfy $(dfy_models) $(dfy_interop) $(DafnyRuntime)
+	$(dafny_codegen) $< || true
+	sed -i.bak -e 's/__AUTOGEN__//g' "$@"
+	rm "$@.bak"
+	sed -i.bak -e 's/.*Tuple0.*//g' "$@"
```
[the remark this answers is not in the document]
Comment (atomb) [reply GNUmakefile:112]: The generated code contains a reference to a non-existent type. I suspect that this is a bug we should fix more broadly, but this works around it. I should add a comment explaining it.

File: src/AST/Entities.dfy [hunk 48]
```diff
@@ -12,6 +12,8 @@ module {:options "-functionSyntax:4"} Bootstrap.AST.Entities
 {
   import opened Names
   import opened Syntax.Exprs
+  import opened Syntax.Types
+  import ST = Syntax.Types
```
[the remark this answers is not in the document]
Comment (atomb) [reply src/AST/Entities.dfy:16]: Oh, no, we shouldn't need both.

File: src/AST/Entities.dfy [hunk 49]
```diff
@@ -497,7 +529,7 @@ module {:options "-functionSyntax:4"} Bootstrap.AST.Entities
       [root] + Seq.Flatten(Seq.Map(RecursiveTransitiveMembers'(root), Members(root)))
     }
 
-    function RecursiveTransitiveMembers'(ghost root: Name)
+    function RecursiveTransitiveMembers'(root: Name)
```
[the remark this answers is not in the document]
Comment (atomb) [reply src/AST/Entities.dfy:532]: I've been meaning to file an issue about this, but don't have a small reproduction. For some reason, the compiler includes this parameter in the compiled code even though it's ghost, which causes compilation to fail. If we make it non-ghost, at least things work. I'll add a comment explaining that.

File: src/AST/Translator.Expressions.dfy [hunk 50]
```diff
@@ -451,6 +455,8 @@ module Bootstrap.AST.Translator {
   {
     if c is C.IdentifierExpr then
       TranslateIdentifierExpr(c as C.IdentifierExpr)
+    else if c is C.ConversionExpr then
+      TranslateUnsupportedExpression(c)
```
[the remark this answers is not in the document]
Comment (atomb) [reply src/AST/Translator.Expressions.dfy:459]: Because it's a subtype of the following type that we don't support, so we have to check for it before the latter.

File: src/Interop/CSharpInterop.cs [hunk 51]
```diff
@@ -7,17 +7,35 @@ public partial class ListUtils {
...
+      }
       for (int i = lA.Count - 1; i >= 0; i--) {
         b0 = f(lA[i], b0);
       }
       return b0;
     }
   }
+
+  public partial class DictUtils {
+    public static R FoldL<K, V, R>(Func<R, K, V, R> f, R r0, Dictionary<K, V> d) where K : notnull {
```
[the remark this answers is not in the document]
Comment (atomb) [reply src/Interop/CSharpInterop.cs:31]: Me too!

File: src/Tools/Auditor/DafnyAuditor.csproj (hunk 27 above)
Comment (atomb) [reply src/Tools/Auditor/DafnyAuditor.csproj:14]: Yes, I'd love that.

File: src/Tools/Auditor/Report.dfy (hunk 39 above)
Comment (atomb) [reply src/Tools/Auditor/Report.dfy:124]: Ah, one thing I didn't mention in this PR so far: the goal is to have it render as HTML via `pandoc` with sortable columns. I have that working but haven't checked it into the repo so far. (And to do that we'll want to write it to a file, anyway.) Maybe having both Markdown and human-readable versions would be good, though.

File: src/AST/Translator.Expressions.dfy [hunk 52]
```diff
@@ -481,7 +487,29 @@ module Bootstrap.AST.Translator {
...
+
+  // TODO: adapt auto-generated AST to include some nullable fields
+  function method TranslateOptionalExpression(e: C.Expression): TranslationResult<Option<Expr>>
+    reads *
+  {
+    if e == null then
+      Success(None)
+    else
+      var e' :- TranslateExpression(e);
+      Success(Some(e'))
```
[the remark this answers is not in the document]
Comment (atomb) [reply src/AST/Translator.Expressions.dfy:512]: I agree.

File: GNUmakefile (hunk 47 above)
[the remark this answers is not in the document]
Comment (atomb) [reply GNUmakefile:112]: Turns out it's no longer needed.

File: src/AST/Entities.dfy [hunk 53]
```diff
@@ -28,10 +30,12 @@ module {:options "-functionSyntax:4"} Bootstrap.AST.Entities
...
 
   datatype SubsetType =
-    SubsetType(boundVar: string, pred: Expr, witnessExpr: Option<Expr>)
+    SubsetType(boundVar: string, ty: Types.Type, pred: Expr, witnessExpr: Option<Expr>)
 
+  datatype TypeParameter =
+    TypeParameter()
   datatype TypeAlias =
-    TypeAlias(base: Name)
+    TypeAlias(base: ST.Type)
```
[the remark this answers is not in the document]
Comment (atomb) [reply src/AST/Entities.dfy:38]: Nothing. :)

File: src/AST/Entities.dfy [hunk 54]
```diff
@@ -41,9 +45,10 @@ module {:options "-functionSyntax:4"} Bootstrap.AST.Entities
   datatype DataType =
     DataType()
   datatype NewType =
-    NewType()
+    NewType(boundVar: string, ty: Types.Type, pred: Option<Expr>, witnessExpr: Option<Expr>)
 
   datatype Type =
+    | TypeParameter(tp: TypeParameter)
```
[the remark this answers is not in the document]
Comment (atomb) [reply src/AST/Entities.dfy:51]: I removed these and now translate type parameters to `Unsupported` (for now).

File: src/AST/Predicates.dfy [hunk 55]
```diff
@@ -102,6 +126,7 @@ abstract module Base {
           && All_Expr(body, P)
         case If(cond, thn, els) =>
           All_Expr(cond, P) && All_Expr(thn, P) && All_Expr(els, P)
+        case Unsupported(_, _) => true
```
[the remark this answers is not in the document]
Comment (atomb) [reply src/AST/Predicates.dfy:129]: I had this idea that subexpressions of unsupported expressions would be handled differently, and not using the normal traversals, thinking that it would be awkward to get all the proofs to go through over incomplete terms. Turns out it's no problem at all, so I've moved toward treating them symmetrically with all other expressions.

File: src/AST/Syntax.dfy [hunk 56]
```diff
@@ -250,6 +259,7 @@ module Exprs {
     | Block(stmts: seq<Expr>)
     | Bind(vars: seq<string>, vals: seq<Expr>, body: Expr)
     | If(cond: Expr, thn: Expr, els: Expr) // DISCUSS: Lazy op node?
+    | Unsupported(description: string, children: seq<Expr>)
```
[the remark this answers is not in the document]
Comment (atomb) [reply src/AST/Syntax.dfy:262]: My thought was that this would usually be some sort of hand-written explanation (maybe also including some auto-generated text from the original expression). But maybe it should just be a representation of the original expression. I'll consider that.

File: src/AST/Predicates.dfy [hunk 57]
```diff
@@ -1,22 +1,38 @@
...
   }
 
-  function method All_Program(p: Program, P: Expr -> bool) : bool {
-    match p {
-      case Program(mainMethod) => All_Method(mainMethod, P)
+  function method All_Callable(c: Callable, P: Expr -> bool) : bool {
+    && Seq.All(P, c.req)
+    && Seq.All(P, c.ens)
+    && All_OptionalExpr(c.body, P)
+  }
```
[the remark this answers is not in the document]
Comment (atomb) [reply src/AST/Predicates.dfy:21]: Yeah, that's an intriguing idea, though I'm not quite sure how we'd do it, either.

File: src/AST/Translator.Expressions.dfy [hunk 58]
```diff
@@ -519,6 +547,22 @@ module Bootstrap.AST.Translator {
...
+    reads *
+  {
+    var predTy :- if p is C.AssertStmt then
+                    Success(DE.Assert)
+                  else if p is C.AssumeStmt then
+                    Success(DE.Assume)
+                  else if p is C.ExpectStmt then
+                    Success(DE.Expect)
+                  else
+                    Failure(Invalid("Unsupported predicate statement type"));
```
[the remark this answers is not in the document]
Comment (atomb) [reply src/AST/Translator.Expressions.dfy:561]: Yep!

File: src/AST/Translator.Expressions.dfy [hunk 59]
```diff
@@ -530,24 +574,35 @@ module Bootstrap.AST.Translator {
...
+      assume Decreases(e, us); TranslateExpression(e));
+    var substmts' :- Seq.MapResult(substmts, s requires s in substmts reads * =>
+      assume Decreases(s, us); TranslateStatement(s));
+    Success(DE.Unsupported("Unsupported expression", subexprs' + substmts'))
   }
 
-  function method TranslateProgram(p: C.Program)
-    : TranslationResult<D.Program>
+
+  // TODO: adapt auto-generated AST to include some nullable fields
```
[the remark this answers is not in the document]
Comment (atomb) [reply src/AST/Translator.Expressions.dfy:598]: https://github.com/dafny-lang/dafny/issues/2724

File: src/Interop/CSharpDafnyModel.dfy [hunk 60]
```diff
@@ -30,7 +30,13 @@ module {:extern "Microsoft.Dafny"} {:compile false} Microsoft.Dafny {
...
 
 module {:extern "Microsoft.Boogie"} {:compile false} Microsoft.Boogie {
-  trait {:compile false} {:extern} {:termination false} IToken {}
+  import System
+
+  trait {:compile false} {:extern} {:termination false} IToken {
+    var {:extern "filename"} FileName: System.String
+    var {:extern "line"} Line: System.int32
+    var {:extern "col"} Column: System.int32
+  }
```
[the remark this answers is not in the document]
Comment (atomb) [reply src/Interop/CSharpDafnyModel.dfy:39]: The Dafny version is automatically generated by `AutoExtern`, but without the `Line` and `Column` properties. The `FileName` property is redundant, however.

File: src/Tools/Auditor/Auditor.dfy (hunk 1 above)
Comment (atomb) [reply src/Tools/Auditor/Auditor.dfy]: I removed it as it's no longer used.

File: src/AST/Translator.Entity.dfy (hunk 14 above)
Comment (atomb) [reply src/AST/Translator.Entity.dfy:284]: Yes, it is.

File: src/Tools/Auditor/Report.dfy (hunk 31 above)
Comment (atomb) [reply src/Tools/Auditor/Report.dfy]: I agree, though it'll require translating `WitnessExpr`. The decision on what we want to do with that in the semantics in the short term is the biggest open question for me.

File: src/Tools/Auditor/EntryPoint.cs (hunk 34 above)
Comment (atomb) [reply src/Tools/Auditor/EntryPoint.cs]: https://github.com/dafny-lang/dafny/issues/2735

Comment (atomb) [reply src/Tools/Auditor/EntryPoint.cs]: I think I'd like to add the ability to exit with an error as part of a separate change.

File: src/Tools/Auditor/Report.dfy (hunk 36 above)
Comment (atomb) [reply src/Tools/Auditor/Report.dfy]: Yeah, very true. Do you know how easy it is within the Dafny implementation as-is to identify whether a type might be empty?

File: src/Tools/Auditor/Report.dfy (hunk 39 above)
Comment (atomb) [reply src/Tools/Auditor/Report.dfy:143]: The plugin can now generate either HTML or Markdown in a file, and I'm about to add human-readable text for the console (or a file).

File: src/Utils/Library.dfy (hunk 45 above)
Comment (atomb) [reply src/Utils/Library.dfy]: Probably, though it's not an automatic proof. I've added a comment about it, should we care to prove it in the future. But I'm not sure it's high priority to prove it right now.

File: src/AST/Translator.Entity.dfy (hunk 46 above)
Comment (atomb) [reply src/AST/Translator.Entity.dfy:194]: Turns out that that's the wrong set of member names. We need to filter out the ones that are direct children, and when we do that we immediately get the necessary fact to construct a valid `EntityInfo`. :tada:

File: src/AST/Syntax.dfy (hunk 56 above)
[the remark this answers is not in the document]
Comment (cpitclaudel) [reply src/AST/Syntax.dfy:262]: I think we should include the position too, and then we can just use C#'s `ToString`

File: src/AST/Predicates.dfy (hunk 57 above)
[the remark this answers is not in the document]
Comment (cpitclaudel) [reply src/AST/Predicates.dfy:14]: Let's make this an issue

File: src/AST/Translator.Expressions.dfy [hunk 61]
```diff
@@ -69,7 +72,7 @@ module Bootstrap.AST.Translator {
       var eltTy :- TranslateType(ty.Arg);
       Success(DT.Collection(true, DT.CollectionKind.Seq, eltTy))
     else
-      Failure(UnsupportedType(ty))
+      Success(DT.Unsupported("Unsupported type"))
```
[the remark this answers is not in the document]
Comment (cpitclaudel) [reply src/AST/Translator.Expressions.dfy:76]: Let's record a position and a string from C#

File: src/AST/Translator.Expressions.dfy (hunk 50 above)
[the remark this answers is not in the document]
Comment (cpitclaudel) [reply src/AST/Translator.Expressions.dfy:465]: Based on our conversation today we decided to change the test for UnaryExpr into one for UnaryOpExpr and also make sure that we never have a `Need` on the type, so that we only reject malformed expressions rather than unknown ones.

[the remark this answers is not in the document]
Comment (cpitclaudel) [reply src/AST/Translator.Expressions.dfy:465]: Let's make an issue for this

File: src/Tools/Auditor/DafnyAuditor.csproj (hunk 27 above)
Comment (cpitclaudel) [reply src/Tools/Auditor/DafnyAuditor.csproj:14]: Let's create an issue for this one

File: src/Tools/Auditor/Report.dfy (hunk 30 above)
Comment (cpitclaudel) [reply src/Tools/Auditor/Report.dfy:16]: Let's create an issue for this

File: src/Tools/Auditor/Report.dfy (hunk 31 above)
Comment (cpitclaudel) [reply src/Tools/Auditor/Report.dfy]: Based on our discussion, we don't need to treat is as an expression: we can use `Option` or similar types everywhere `*` is used.

File: src/Tools/Auditor/Auditor.dfy (hunk 33 above)
Comment (cpitclaudel) [reply src/Tools/Auditor/Auditor.dfy]: Let's create an issue for the case of returning a possibly empty type from an extern and translate the corresponding annotations from C#

File: src/Tools/Auditor/EntryPoint.cs (hunk 34 above)
Comment (cpitclaudel) [reply src/Tools/Auditor/EntryPoint.cs]: Let's create an issue for this

File: src/Tools/Auditor/Report.dfy (hunk 36 above)
Comment (cpitclaudel) [reply src/Tools/Auditor/Report.dfy]: There's a property on types that indicates whether they are inhabited; I'm not sure if it's computed correctly for subset types.  Let's create an issue about this.

File: src/AST/Entities.dfy (hunk 49 above)
[the remark this answers is not in the document]
Comment (cpitclaudel) [reply src/AST/Entities.dfy:531]: Let's add a `BUG(…)` comment here, I would like to investigate this

File: src/AST/Syntax.dfy (hunk 56 above)
[the remark this answers is not in the document]
Comment (cpitclaudel) [reply src/AST/Syntax.dfy:262]: Let's create an issue about this

File: src/AST/Translator.Expressions.dfy (hunk 61 above)
[the remark this answers is not in the document]
Comment (cpitclaudel) [reply src/AST/Translator.Expressions.dfy:76]: (But we can make this an issue)

File: src/Tools/Auditor/Report.dfy (hunk 31 above)
Comment (cpitclaudel) [reply src/Tools/Auditor/Report.dfy]: Let's update the comment correspondingly

File: src/Transforms/Shallow.dfy (hunk 20 above)
Comment (cpitclaudel) [reply src/Transforms/Shallow.dfy:49]: Let's create an issue for this

File: src/AST/Entities.dfy (hunk 49 above)
[the remark this answers is not in the document]
Comment (cpitclaudel) [reply src/AST/Entities.dfy:531]: Let's also create an issue for the documentation of the auditor and link to it from the main README

File: src/Tools/Auditor/assets/template.html [hunk 62]
```diff
@@ -0,0 +1,526 @@
+<!DOCTYPE html>
```
Comment (cpitclaudel) [inline src/Tools/Auditor/assets/template.html:1]: Let's patch out all the vendored code and refer to it by URL to avoid license complications and repo bloat

File: src/AST/Entities.dfy (hunk 49 above)
[the remark this answers is not in the document]
Comment (atomb) [reply src/AST/Entities.dfy:531]: https://github.com/dafny-lang/compiler-bootstrap/issues/13

File: src/AST/Syntax.dfy (hunk 56 above)
[the remark this answers is not in the document]
Comment (atomb) [reply src/AST/Syntax.dfy:262]: #21

File: src/AST/Predicates.dfy (hunk 57 above)
[the remark this answers is not in the document]
Comment (atomb) [reply src/AST/Predicates.dfy:14]: #14

File: src/AST/Translator.Expressions.dfy (hunk 61 above)
[the remark this answers is not in the document]
Comment (atomb) [reply src/AST/Translator.Expressions.dfy:76]: #21

File: src/AST/Translator.Expressions.dfy (hunk 50 above)
[the remark this answers is not in the document]
Comment (atomb) [reply src/AST/Translator.Expressions.dfy:465]: #15

File: src/Tools/Auditor/DafnyAuditor.csproj (hunk 27 above)
Comment (atomb) [reply src/Tools/Auditor/DafnyAuditor.csproj:14]: #16

File: src/Tools/Auditor/Report.dfy (hunk 31 above)
Comment (atomb) [reply src/Tools/Auditor/Report.dfy]: A tag now exists for this, but it's never created. Issue #17 tracks extracting the information needed to create it.

File: src/Tools/Auditor/Auditor.dfy (hunk 33 above)
Comment (atomb) [reply src/Tools/Auditor/Auditor.dfy]: #18

File: src/Tools/Auditor/EntryPoint.cs (hunk 34 above)
Comment (atomb) [reply src/Tools/Auditor/EntryPoint.cs]: #22

File: src/Tools/Auditor/Report.dfy (hunk 36 above)
Comment (atomb) [reply src/Tools/Auditor/Report.dfy]: #18
